US07592373B2
4.12.a. 5-nitro-2-vinylbenzoxazole
A reaction mixture of 1.54 g (10 mmol) of 2-amino-4-nitrophenol, 1.36 g (10 mmol) of ethyl 3-chloropropionate and 20 g polyphosphoric acid is stirred for 2 hours at 170° C. Then the mixture is neutralized by the addition of saturated sodium hydrogen carbonate solution at ambient temperature. The aqueous phase is extracted with dichloromethane. The organic phase is dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane/ethanol (20:1)). Yield: 0.3 g (15.8% of theory); C9H6N2O3 (M=190.16); calc.: molecular ion peak (M+H)+: 191; found: molecular ion peak (M+H)+: 191; Rf value: 0.8 (silica gel, dichloromethane/ethanol (20:1)).

reactant | 2-amino-4-nitrophenol | 10 mmol, 1.54 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | ethyl 3-chloropropionate | 10 mmol, 1.36 g | ClCCC(=O)OCC | C5H9ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-nitro-2-vinylbenzoxazole | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C=C)C1 | C9H6N2O3
